US08563593B2
Commercially available 2,2-difluoro-1,3-benzodioxole-5-carboxylic acid (1.0 eq) is slurried in toluene (10 vol). Vitride® (2 eq) is added via addition funnel at a rate to maintain the temperature at 15-25° C. At the end of addition the temperature is increased to 40° C. for 2 h then 10% (w/w) aq. NaOH (4.0 eq) is carefully added via addition funnel maintaining the temperature at 40-50° C. After stirring for an additional 30 minutes, the layers are allowed to separate at 40° C. The organic phase is cooled to 20° C. then washed with water (2×1.5 vol), dried (Na2SO4), filtered, and concentrated to afford crude (2,2-difluoro-1,3-benzodioxol-5-yl)-methanol that is used directly in the next step.

reactant | 2,2-difluoro-1,3-benzodioxole-5-carboxylic acid | 1.0 eq | FC1(OC2=C(O1)C=CC(=C2)C(=O)O)F | C8H4F2O4
reactant | Vitride | COCCO[AlH2-]OCCOC.[Na+]
reactant | NaOH | 4.0 eq | [OH-].[Na+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | (2,2-difluoro-1,3-benzodioxol-5-yl)-methanol | FC1(OC2=C(O1)C=CC(=C2)CO)F | C8H6F2O3
